US04178449
4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile
A mixture of 2.0 g. of 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxamide, 1.03 g. of anhydrous pyridine and 50 ml. of anhydrous dioxane is chilled in an ice bath. To this is added 1.51 g. of trifluoroacetic anhydride and the mixture is stirred at room temperature overnight. Water is added and the resulting solid is collected by filtration. This solid is dissolved in methylene chloride and passed through a column of hydrous magnesium silicate. The effluent is refluxed with the continued addition of hexane until crystallization is started. Cooling gives the desired solid product which is recovered by filtration, m.p. 168°-169° C.

reactant | 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxamide | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)N)(F)F | C14H9F3N4O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | Water | O | H2O
product | 4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C#N)(F)F | C14H7F3N4
